US05250527
m-Chloroperbenzoic acid (71.42 g) in dichloromethane (11) was added dropwise to a stirred solution of 5-bromo-2,3-lutidine (70.0 g) over I hour. After 23 hours the solution was cooled to 15° and ammonia gas bubbled through to give a white precipitate, which was filtered off. The filtrate was washed with 5% aqueous sodium sulphite, dried, and stripped to give 5-bromo-2,3-lutidine-N-oxide, 61.78 g, m.p. 80°-2°, from ethyl acetate.

reactant | m-Chloroperbenzoic acid | 71.42 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-bromo-2,3-lutidine | 70.0 g | BrC=1C=C(C(=NC1)C)C | C7H8BrN
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-bromo-2,3-lutidine-N-oxide | BrC=1C=C(C(=[N+](C1)[O-])C)C | C7H8BrNO
